US07977570B2
Under the atmosphere of nitrogen, a mixed solution made of 2 parts of 2-thiopheneboric acid, 3 mL of ethanol and 10 mL of 2M sodium carbonate was dropwise added to a mixed solution of 2 parts of 5-bromoindoline and 20 parts of toluene, and the reactive components were caused to react for 1 hour. Thereafter, thereto was added 0.3 part of tetra-triphenylphosphine palladium (0), and the reactive components were caused to react at 80° C. for 12 hours. After the reaction, the reaction solution was extracted with water/ethyl acetate, and the ethyl acetate phase was dried over magnesium sulfate. Ethyl acetate was distilled off, and the residue was separated and purified by column chromatography (hexane/ethyl acetate) to yield 2 parts of a precursor of the compound (311), 5-(thiophene-2-yl)indoline as a colorless crystal. Next, under the atmosphere of nitrogen, 2 parts of this 5-(thiophene-2-yl)indoline, 6 parts of 2-iodo-9,9-dimethyl-9H-fluorene, 30 parts of dimethylformamide (DMF), 10 parts of potassium carbonate, and 1 part of copper powder (200 mesh) were stirred at 160° C. for 10 hours. After the reaction, the resultant was extracted with water/ethyl acetate, and the ethyl acetate phase was dried over magnesium sulfate. Ethyl acetate was distilled off, and the residue was separated and purified by column chromatography to yield 2 parts of 1-(9,9-dimethyl-9H-fluorene-2-yl)-5-(thiophene-2-yl)indoline, which is a precursor of the compound (311) in the same manner, as a colorless crystal. Next, 1.7 parts of phosphorus oxychloride were dropwise added to 10 parts of DMF, the temperature of which was adjusted to 5° C., while the temperature of the reaction solution was kept at 10° C. or lower. The reaction solution was then stirred at 5° C. for 1 hour. Thereafter, 2 parts of 1-(9,9-dimethyl-9H-fluorene-2-yl)-5-(thiophene-2-yl)indoline described above were added thereto, and then the reactive components were caused to react at 25° C. for 1 hour. The reaction solution was then stirred at 70° C. for 1 hour. Thereafter, a 20% solution of sodium hydroxide in water was added to the reaction solution until the pH turned to 12. The precipitated crystal was filtrated, and the resultant crystal was washed with water. The crystal was then separated by column chromatography (hexane/ethyl acetate), and recrystallized from ethanol to yield 2 parts of the compound (311) as a yellow crystal.

reactant | 5-(thiophene-2-yl)indoline | S1C(=CC=C1)C=1C=C2CCNC2=CC1 | C12H11NS
reactant | 2-iodo-9,9-dimethyl-9H-fluorene | IC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C15H13I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(9,9-dimethyl-9H-fluorene-2-yl)-5-(thiophene-2-yl)indoline | CC1(C2=CC=CC=C2C=2C=CC(=CC12)N1CCC2=CC(=CC=C12)C=1SC=CC1)C | C27H23NS
